US04199570
To a solution of 500 mg (3.26 mmoles) of 3-hydroxyazetidine-3-carboxylic acid hydrochloride in 15 ml of water are added 1.06 ml of 37% formalin and 250 mg of platinum oxide monohydrate, and the mixture is kept at ambient temperature under atmospheric pressure for 46 hours. The catalyst is filtered off and washed with water. The combined filtrate and washings are evaporated under reduced pressure. The residue (0.79 g) is dissolved in 10 ml of water, adsorbed on 30 ml of Amberlite IR-120 B (H+), and eluted with 100 ml of 2 N aqueous ammonium hydroxide solution. The eluate is evaporated under reduced pressure. The residue (431 mg) is crystallized from water-acetone to yield 1-methyl-3-hydroxyazetidine-3-carboxylic acid as prisms.

reactant | 3-hydroxyazetidine-3-carboxylic acid hydrochloride | 3.26 mmoles, 500 mg | Cl.OC1(CNC1)C(=O)O
reactant | formalin | 1.06 ml | C=O | CH2O
solvent | water | 15 ml | O | H2O
catalyst | platinum oxide monohydrate | 250 mg | O.[Pt]=O
product | 1-methyl-3-hydroxyazetidine-3-carboxylic acid | 74.9% yield | CN1CC(C1)(C(=O)O)O | C5H9NO3
